US08476261B2
a) Ethyl 3-(1-(hydroxymethyl)cyclopropylamino)-2-(2,3,4,5-tetrafluorobenzoyl)-acrylate
A stirred solution of ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate (10.0 g, 37.8 mmol), acetic anhydride (50 mL) and triethyl orthoformate (10.0 mL, 56.7 mmol) was heated at 130° C. for 3 h. The mixture was concentrated and dried under high vacuum for 5 hours. The crude product was dissolved in DCM (50 mL) and then 1-amino-1-cyclopropylmethanol (3.9 g, 45.3 mmol) was added dropwise at room temperature. After 1.5 h, the solvent was removed by evaporation to yield the title compound as a yellow solid (9 g) that was used in the next step without further purification. MS (EP) m/z: 362 (M++1). (Calcd. For C16H15F4NO4, 361.29)

reactant | ethyl 3-oxo-3-(2,3,4,5-tetrafluorophenyl)propionate | 37.8 mmol, 10.0 g | O=C(CC(=O)OCC)C1=C(C(=C(C(=C1)F)F)F)F | C11H8F4O3
reactant | triethyl orthoformate | 56.7 mmol, 10.0 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | 1-amino-1-cyclopropylmethanol | 45.3 mmol, 3.9 g | NC(O)C1CC1 | C4H9NO
reactant | acetic anhydride | 50 mL | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 3-(1-(hydroxymethyl)cyclopropylamino)-2-(2,3,4,5-tetrafluorobenzoyl)-acrylate | 9 g | OCC1(CC1)NC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C16H15F4NO4
